US04398029
Anhydrous potassium carbonate (2.2 g), 6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester (0.8 g), 1-bromo-2-fluoroethane (3.8 g), sodium iodide (4.5 g), and DMF (30 ml) were combined and heated with stirring at 90°-100° C. for 10 hours. After the solvent evaporated and cooled, water was added to the residue and extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. To the residual solid was added a mixture of 18% hydrochloric acid (14 ml) and ethanol (7 ml) and the acidic mixture was refluxed for 2.5 hours. Water (14 ml) and ethanol (14 ml) were added to the reaction mixture and cooled. The precipitate was collected by filtration and recrystallized from a mixture of DMF and ethanol to give 6,7,8-trifluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.34 g), mp 208°-210° C.

reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester | 0.8 g | C(C)OC(=O)C1=CNC2=C(C(=C(C=C2C1=O)F)F)F | C12H8F3NO3
reactant | 1-bromo-2-fluoroethane | 3.8 g | BrCCF | C2H4BrF
reactant | sodium iodide | 4.5 g | [I-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6,7,8-trifluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.34 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)CCF)C(=O)O)=O | C12H7F4NO3
